US04369188
6,8-Dibromo-benz[cd]indol-2(1H)-one (III: R2 and R3 =Br)
A solution of bromine (3.8 g) in glacial acetic acid (15 mL) was added dropwise to a suspension of 6-bromo-benz[cd]indol-2(1H)-one[4 g, 16.1 mmol, described by H. Goldstein and P. Francey, Helv., 15, 1366 (1932)] in glacial acetic acid (30 mL) for 3-4 hr. The precipitate was collected by filtration, washed, dried (any coloration caused by the excess of bromine could be removed by washing with a diluted sodium thiosulfate solution), and crystallized from ethanol-water to give the title compound (3.5 g): mp 280°-290° C.; Anal. Calcd for C11H5Br2NO: C, 40.41% H, 1.54% N, 4.28% and Found: C, 40.52% H, 1.51% N, 4.43%; IR (mineral oil) 3140 and 1700 cm-1 ; UV max (methanol) 345 (ε4370), 329 (2910), 264 (27,680), and 212 nm (30,920); and NMR (DMSO-d6)δ 8.0 (m, 4H), and 11.3 (s, 1H).

reactant | bromine | 3.8 g | BrBr | Br2
reactant | 6-bromo-benz[cd]indol-2(1H)-one | 16.1 mmol, 4 g | BrC=1C=2C3=C(C(NC3=CC1)=O)C=CC2 | C11H6BrNO
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
product | 6,8-Dibromo-benz[cd]indol-2(1H)-one | 3.5 g | BrC=1C=2C3=C(C(NC3=C(C1)Br)=O)C=CC2 | C11H5Br2NO
